US04863480
First Step: Preparation of 2-hydroxy-4-nitrophenoxyethanol
0.2 mol (11.2 g) of potassium hydroxide is dissolved in 167 ml of ethylene glycol in a boiling water bath. 0.1 mol (16.7 g) of 3,4-methylenedioxynitrobenzene is added, with stirring, the temperature being kept in the region of 100° C. After heating for two hours, the reaction medium is cooled to -5° C. The expected product crystallizes in the form of the potassium phenate. The phenate is filtered off and then redissolved in 250 ml of water, and the solution is acidified to pH=6 with concentrated hydrochloric acid. The 2-hydroxy-4-nitrophenoxyethanol precipitates. After filtration, washing with water and drying in vacuo, the expected product melts at 158° C.

reactant | potassium hydroxide | 0.2 mol, 11.2 g | [OH-].[K+]
reactant | 3,4-methylenedioxynitrobenzene | 0.1 mol, 16.7 g | C1OC=2C=C(C=CC2O1)[N+](=O)[O-] | C7H5NO4
reactant | ethylene glycol | 167 ml | C(CO)O | C2H6O2
product | 2-hydroxy-4-nitrophenoxyethanol | OC1=C(OC(C)O)C=CC(=C1)[N+](=O)[O-] | C8H9NO5
